US04146721
8.0 grams p-tolylhydrazine-hydrochloride, 9.3 grams 3,3-diacetyl-propionic acid-ethyl ester, 4.1 grams anhydrous sodium acetate and 70 milliliters ethanol were mixed and the mixture was heated to the boiling temperature under reflux for 1.5 hour. The reaction mixture was worked up as described in Example (3a). After distillation, 12.1 grams 3,5-dimethyl-1-(p-tolyl)pyrazol-4-acetic acid-ethyl ester were obtained as a viscous oil having a Kp0.001 of 145°-146° C., representing a yield of 89%. For analysis, the product was redistilled resulting in an nD20 1.5455.

reactant | p-tolylhydrazine-hydrochloride | 8.0 grams | Cl.C1(=CC=C(C=C1)NN)C
reactant | 3,3-diacetyl-propionic acid-ethyl ester | 9.3 grams | C(C)OC(CC(C(C)=O)C(C)=O)=O | C9H14O4
reactant | sodium acetate | 4.1 grams | C(C)(=O)[O-].[Na+]
solvent | ethanol | 70 milliliters | C(C)O | C2H6O
product | 3,5-dimethyl-1-(p-tolyl)pyrazol-4-acetic acid-ethyl ester | 12.1 grams, yield of 89% | C(C)OC(CC=1C(=NN(C1C)C1=CC=C(C=C1)C)C)=O | C16H20N2O2
